US04266003
18.9 g of diethyliminodiacetate and 18.4 g of methyl-2-pyridyldithiocarbamate were put in a flask and heated to 100° C. for 5 hours. The product was subjected to silica gel column chromatography and fractions were extracted by a solvent mixture composed of n-hexane-ethyl acetate (1:1), were gathered to obtain 18.5 g of 1-ethoxycarbonylmethyl-3-(2-pyridyl)-2-thiohydantoin as a viscous oil. 5.6 g of this 2-thiohydantoin compound, 6.8 g of 4-[2-(2-anilonovinyl)-3-benzoxazolio]butanesulfonate and 100 ml of ethanol were put in a flask. After adding 4 ml of acetic anhydride and 6 ml of triethylamine, the mixture was heated under refluxing for 30 minutes. After condensing to remove the solvent, 200 ml of ethyl acetate was added thereto. After stirring for 30 minutes, the supernatant liquid was removed by decantation. 10 ml of methanol was added to dissolve the residue, and a solution prepared by dissolving 2.4 g of potassium acetate in 10 ml of methanol was added. After heating for 10 minutes, it was allowed to stand. Separated crystals were filtered and recrystallized with methanol to obtain 6.2 g of Compound (19) as orange crystals having a melting point of 202° C.

reactant | diethyliminodiacetate | 18.9 g | CCOC(=O)CNCC(=O)OCC | C8H15NO4
reactant | methyl-2-pyridyldithiocarbamate | 18.4 g | CSC(NC1=NC=CC=C1)=S | C7H8N2S2
product | 1-ethoxycarbonylmethyl-3-(2-pyridyl)-2-thiohydantoin | 18.5 g | C(C)OC(=O)CN1C(=S)N(C(=O)C1)C1=NC=CC=C1 | C12H13N3O3S
